US06562828B1
7-[1-(2-Hydroxyethyl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine Dihydrochloride
To a solution of N,N′-di-tert-butoxycarbonyl-7-[1-(2-hydroxyethyl)-piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine (60 mg) in chloroform (0.6 ml)solution was added trifluoroacetic acid (0.3 ml), and the mixture was stirred at room temperature for 5 hours. After completion of the reaction, the solvent was evaporated and to the obtained residue was added a hydrogen chloride—ethanol solution and insoluble material was removed. The resultant mixture was concentrated and dried under reduced pressure to give the title compound (40 mg).

reactant | N,N′-di-tert-butoxycarbonyl-7-[1-(2-hydroxyethyl)-piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine | 60 mg | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N1CC2=CC(=CC=C2CC1)OCC1CCN(CC1)CCO | C28H44N4O6
reactant | trifluoroacetic acid | 0.3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | chloroform | 0.6 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-[1-(2-Hydroxyethyl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine Dihydrochloride | 40 mg | Cl.Cl.OCCN1CCC(CC1)COC1=CC=C2CCN(CC2=C1)C(=N)N | InChI=1S/C18H28N4O2.2ClH/c19-18(20)22-8-5-15-1-2-17(11-16(15)12-22)24-13-14-3-6-21(7-4-14)9-10-23;;/h1-2,11,14,23H,3-10,12-13H2,(H3,19,20);2*1H
